### PR TITLE
Bump stdlib to 2.0

### LINKED ISSUE #405: Support stdlib 2.0
[Agda stdlib 2.0 has recently been released](https://github.com/agda/agda-stdlib/blob/v2.0/CHANGELOG.md), but [unfortunately agda-categories doesn't compile with it](https://github.com/NixOS/nixpkgs/pull/273765/checks?check_run_id=19562607525). Maybe this can be fixed easily?

### PR DESCRIPTION
**Pull request by Taneb**
Closes #405. Supercedes #352.

I ran into difficulty trying to make `Categories.Yoneda` work with the new function hierarchy so I'm opening this as a draft.

Many of the changes could be made tidier.

Difficulties encountered so far:
* `Categories.Category.Instance.Setoids` and `Categories.Adjoint.Mate` could both do with a definition of equality of functions between setoids. I've inlined it for the former but didn't for the latter, because we just want the relation and it'd be too much of a mess to define it there locally too.
* I got sufficiently confused by `Categories.Yoneda` that I bounced off it. I may give this another go at some point.

Other maintainers of the library are explicitly invited to contribute to this PR.

### CODE REVIEW

**Comment by Taneb** [comment]
Status: I've been working through the modules in alphabetical order. I've skipped `Categories.Adjoint.Mate` because it would hugely benefit from having a definition of equality of functions between setoids somewhere, and its dependents. Currently up to `Categories.Category.Instance.FamilyOfSetoids`, but I won't have much time to work on it in the next few days

**Comment by JacquesCarette** [comment]
Thanks. I'm hoping to be able to push it forward this weekend.

It will definitely make sense to create some helper functions that ought to end up in stdlib 2.1, but can live in agda-categories for a single version.

**Comment by Taneb** [comment]
Wow, @JacquesCarette, you've stormed through that!

**Comment by JacquesCarette** [comment]
I ended up spending close to 12 hours yesterday single-mindedly pushing through this. I'd definitely appreciate a review @Taneb . I know there's quite a few things to clean up, but that's so much easier than the first pass.

File: src/Categories/Category/Instance/FamilyOfSetoids.agda [hunk 1]
```diff
@@ -11,13 +11,23 @@ open import Level
...
+open import Function.Structures using (IsInverse)
 import Relation.Binary.Reasoning.Setoid as SetoidR
 
 open import Categories.Category
 
 module _ {a b c d : Level} where
+
+  private
+    infixr 9 _∙_
+    _∙_ : {a₁ a₂ b₁ b₂ c₁ c₂ : Level} {A : Setoid a₁ a₂} {B : Setoid b₁ b₂}
```
Comment (Taneb) [inline src/Categories/Category/Instance/FamilyOfSetoids.agda:27]: If we're going to use this across several modules, can we put it somewhere it can be imported?

File: src/Categories/Category/Instance/FamilyOfSetoids.agda [hunk 2]
```diff
@@ -126,7 +136,7 @@ module _ {a b c d : Level} where
     ; ∘-resp-≈ = comp-resp-≈≈
     }
     where
-    open _InverseOf_
+    -- open _InverseOf_
```
Comment (Taneb) [inline src/Categories/Category/Instance/FamilyOfSetoids.agda:139]: Commented out code

File: src/Categories/Category/Instance/Setoids.agda [hunk 3]
```diff
@@ -6,22 +6,28 @@ module Categories.Category.Instance.Setoids where
...
-  ; _∘_       = _∘_
-  ; assoc     = λ {_ _ _ D} {f g h} → cong (h ∘ g ∘ f)
-  ; sym-assoc = λ {_ _ _ D} {f g h} → cong (h ∘ g ∘ f)
-  ; identityˡ = λ {_ _} {f} → cong f
-  ; identityʳ = λ {_ _} {f} → cong f
-  ; identity² = λ eq → eq
-  ; equiv     = λ {A B} → Setoid.isEquivalence (A ⇨ B)
-  ; ∘-resp-≈  = λ f≡h g≡i x≡y → f≡h (g≡i x≡y)
+  ; _⇒_       = Func
+  ; _≈_       = λ {A B} → λ f g → ∀ {x y} → Setoid._≈_ A x y → Setoid._≈_ B (f ⟨$⟩ x) (g ⟨$⟩ y)
```
Comment (Taneb) [inline src/Categories/Category/Instance/Setoids.agda:19]: Can we use the new `Function.Construct.Setoid` here?

File: src/Categories/Functor/Properties.agda [hunk 4]
```diff
@@ -29,17 +28,13 @@ Contravariant : ∀ (C : Category o ℓ e) (D : Category o′ ℓ′ e′) → S
 Contravariant C D = Functor (Category.op C) D
 
 Faithful : Functor C D → Set _
-Faithful {C = C} {D = D} F = ∀ {X Y} → (f g : C [ X , Y ]) → D [ F₁ f ≈ F₁ g ] → C [ f ≈ g ]
+-- Faithful {C = C} {D = D} F = ∀ {X Y} → (f g : C [ X , Y ]) → D [ F₁ f ≈ F₁ g ] → C [ f ≈ g ]
```
Comment (Taneb) [inline src/Categories/Functor/Properties.agda:31]: Commented out code

**Review by Taneb — COMMENTED** [review]
I've had a quick look through and highlighted (all minor) problems I've seen.

Can I ask you to take a close look at `Categories.Functor.Properties`, @JacquesCarette ? It probably has the most substantial changes

**Comment by JacquesCarette** [comment]
(I'm going to use the review facility to leave additional notes for myself)

File: src/Categories/CoYoneda.agda [hunk 5]
```diff
@@ -34,9 +34,9 @@ private
 
 module Yoneda (C : Category o ℓ e) where
   open Category C hiding (op) -- uses lots
-  open HomReasoning using (_○_; ⟺)
+  open HomReasoning using (_○_; ⟺; refl⟩∘⟨_)
   open MR C using (id-comm)
-  open NaturalTransformation using (η; commute)
+  open NaturalTransformation
```
Comment (JacquesCarette) [inline src/Categories/CoYoneda.agda:39]: put `using` back

File: src/Categories/CoYoneda.agda [hunk 6]
```diff
@@ -70,19 +70,28 @@ module Yoneda (C : Category o ℓ e) where
...
+          begin
+            Func.to (F.₁ f) y                      ≈⟨ Func.cong (F.₁ f) eq ⟩
+            Func.to (F.₁ f) (Func.to (η nat a) id) ≈⟨ sym-commute nat f CE.refl  ⟩
+            Func.to (η nat b) (f ∘ id ∘ id)        ≈⟨ Func.cong (η nat b) (refl⟩∘⟨ identity² ○ (identityʳ ○ f≈g)) ⟩
+            Func.to (η nat b) g                    ∎ 
     }
     where
     module F = Functor F using (₀; ₁; F-resp-≈; homomorphism; identity)
-    module SE = Setoid (F.₀ a) using (refl)
+    module SE = Setoid (F.₀ a)
```
Comment (JacquesCarette) [inline src/Categories/CoYoneda.agda:94]: open `Func`

File: src/Categories/Functor/Properties.agda (hunk 4 above)
Comment (JacquesCarette) [reply src/Categories/Functor/Properties.agda:31]: indeed. But this also changes the definition of `Faithful` as `Injective` is different. Same with `Surjective` below.

I think that `StrictlyInjective` (and ditto for `Surjective`) might be more appropriate.

**Review by JacquesCarette — COMMENTED** [review]
Various notes to help in a cleanup

File: src/Categories/Adjoint/Parametric.agda [hunk 7]
```diff
@@ -124,7 +125,10 @@ record ParametricAdjoint {C D E : Category o ℓ e} (L : Functor C (Functors D E
 
           is-cowedge : A.Radjunct X (η (R.₁ f) A)
                    E.≈ A.counit.η Y A E.∘ η (L.₁ f) (RR.₀ Y A)
-          is-cowedge = Adjoint.Hom-inverse.injective (areAdjoint X) adjunction-iso
+          is-cowedge = inverseʳ⇒injective
```
[the remark this answers is not in the document]
Comment (JacquesCarette) [reply src/Categories/Adjoint/Parametric.agda:128]: after an absolutely ridiculous amount of work... yes, it can be.

File: src/Categories/Category/Construction/Properties/Presheaves/FromCartesianCCC.agda [hunk 8]
```diff
@@ -38,6 +37,12 @@ module FromCartesian o′ ℓ′ {o ℓ e} {C : Category o ℓ e} (Car : Cartesi
     open Cartesian Car
     open BinaryProducts products
 
+    -- this should be back-ported to stdlib
```
[the remark this answers is not in the document]
Comment (JacquesCarette) [reply src/Categories/Category/Construction/Properties/Presheaves/FromCartesianCCC.agda:40]: done.

File: src/Categories/Category/Construction/Properties/Presheaves/FromCartesianCCC.agda [hunk 9]
```diff
@@ -133,6 +138,11 @@ module FromCartesianCCC {o} {C : Category o o o} (Car : Cartesian C) where
     module PPC = BinaryProducts PC.products using (π₁; π₂; _×_; project₁; project₂; ⟨_,_⟩; unique)
     module TPC = Terminal PC.terminal using (⊤; !; !-unique)
 
+    infixr 9 _∙_
+    _∙_ : {a₁ a₂ b₁ b₂ c₁ c₂ : Level} {A : Setoid a₁ a₂} {B : Setoid b₁ b₂}
+      {C : Setoid c₁ c₂} → Func B C → Func A B → Func A C
+    f ∙ g = function g f
```
[the remark this answers is not in the document]
Comment (JacquesCarette) [reply src/Categories/Category/Construction/Properties/Presheaves/FromCartesianCCC.agda:144]: Done

File: src/Categories/Category/Instance/FamilyOfSetoids.agda (hunk 1 above)
Comment (JacquesCarette) [reply src/Categories/Category/Instance/FamilyOfSetoids.agda:27]: Done

File: src/Categories/Category/Monoidal/Closed/IsClosed.agda [hunk 10]
```diff
@@ -72,26 +62,21 @@ closed = record
...
-      Radjunct (Ladjunct (f ∘ unitorˡ.from)) ∘ unitorˡ.to
-        ≈⟨ RLadjunct≈id ⟩∘⟨refl ⟩
-      (f ∘ unitorˡ.from) ∘ unitorˡ.to
-        ≈⟨ cancelʳ unitorˡ.isoʳ ⟩
-      f
-        ∎
-    }
+  ; γ-γ⁻¹-inverseᵇ  = λ {X Y} →
+    (λ {f} {y} eq →  begin
+      Radjunct y ∘ unitorˡ.to                                                     ≈⟨ (refl⟩∘⟨ ℱ.F-resp-≈ (-⊗ X) eq) ⟩∘⟨refl ⟩
```
[the remark this answers is not in the document]
Comment (JacquesCarette) [reply src/Categories/Category/Monoidal/Closed/IsClosed.agda:70]: it already existed...

**Review by JacquesCarette — APPROVED** [review]
